* Simplified 74ACT74 D Flip-Flop (behavioral)
* Pins: 1=CLRBAR, 2=PRBAR, 3=CLKP, 4=D1, 5=Q1, 6=Q1BAR

.SUBCKT DFF 1 2 3 4 5 6
* Inputs: 1=CLRBAR, 2=PRBAR, 3=CLKP, 4=D1
* Outputs: 5=Q1, 6=Q1BAR

* Behavioral D flip-flop: Q1 follows D1 on rising edge of CLKP
B_Q1 5 0 V=IF(V(1)<1,0,IF(V(2)<1,5,IF(V(3)-V(3)_prev>2.5,V(4),V(5)))))
B_Q1BAR 6 0 V=5-V(5)

* Memory to detect rising edge (approx)
V3_prev N_prev 0 DC 0
BEDGE N_prev 0 V=V(3)

.ENDS DFF
