* Simple D Flip-Flop for KiCad Simulation
* Pins: 1=C (Clock), 2=D, 7=Q

* Subcircuit definition
.SUBCKT DFF_SWITCH 1 2 7
* 1=C, 2=D, 7=Q

* Internal node for storing state
NINT 0

* Latch D on rising edge of C
B_Q NINT 0 V=IF(V(1)-V(1)_prev>2.5, V(2), V(NINT))

* Output
E_Q 7 0 VOL=V(NINT)

* Track previous clock voltage (for edge detection)
V1_prev NINT_prev 0 DC 0
BEDGE NINT_prev 0 V=V(1)

.ENDS DFF_SWITCH
