.model NMOS_VTL NMOS (LEVEL=1 VTO=0.7 KP=200u)
.model PMOS_VTL PMOS (LEVEL=1 VTO=-0.7 KP=100u)

.subckt NAND2 gnd i1 i2 o vdd

* PMOS (stronger pull-up)
Mp1 o i1 vdd vdd PMOS_VTL W=2u L=0.1u
Mp2 o i2 vdd vdd PMOS_VTL W=2u L=0.1u

* NMOS (series pull-down)
Mn1 o  i1 t1  gnd NMOS_VTL W=1u L=0.1u
Mn2 t1 i2 gnd gnd NMOS_VTL W=1u L=0.1u

.ends NAND2
